US03987053
EXAMPLE 51: 1-Methyl-2-nitro-5-vinylimidazole
To a solution of 18.9 g. of 5-(2-chloroethyl)-1-methyl-2-nitroimidazole (prepared according to the procedure of British Patent 1,222,486) in 2.8 liters of anhydrous benzene cooled to 5°-10° C., 16.8 g. of potassium tert-butoxide is added. Stirring is continued for 2 hours at 5°-10° C. After filtration and concentration to dryness under vacuum at a temperature lower than 50° C., the resulting yellow oily residue is washed 3 times with 50 ml. of ethyl ether (or light petroleum). The title product is obtained, which is dried under vacuum at 40° C.; yield 12 g. (77.7%). A sample crystallized from ethyl ether melts at 106°-108° C.

reactant | 5-(2-chloroethyl)-1-methyl-2-nitroimidazole | ClCCC1=CN=C(N1C)[N+](=O)[O-] | C6H8ClN3O2
reactant | potassium tert-butoxide | CC(C)([O-])C.[K+]
solvent | benzene | 2.8 liters | C1=CC=CC=C1 | C6H6
product | 1-Methyl-2-nitro-5-vinylimidazole | CN1C(=NC=C1C=C)[N+](=O)[O-] | C6H7N3O2
